US06936612B2
5-Bromo-2-nitropyridine (10.67 g, 52.6 mmol), tetra-n-butyl ammonium iodide (0.97 g, 02.63 mmol), 2,2-dimethyl-piperazine (6.60 g, 57.8 mmol) and potassium carbonate (8.00 g, 57.8 mmol) were mixed in DMSO. (50 mL). The reaction mixture was warmed to 95° C. for 5 hours. The reaction mixture was poured onto ice chips (approximately 200 mL) then extracted with dichloromethane (6×75 mL). The combined organics were dried over MgSO4, the inorganic salts were removed by filtration and the remaining solvents were concentrated to provide an orange solid. This solid was dissolved in dichloromethane (100 mL) to which triethylamine (10.65 g, 14.7 mL, 105 mmol) and di-tert-butyl dicarbonate (13.8 g, 63.12 mmol) were added. After 16 hours, more di-tert-butyl dicarbonate (3.8 g, 17.41 mmol) was added and the mixture was brought to reflux for 3 hours. The reaction mixture was then cooled to room temperature and diluted with dichloromethane (100 mL) and washed with water (1×100 mL). The organic layer was then dried over MgSO4, filtered, and the solvent evaporated to yield 2,2-dimethyl-4-(6-nitro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester as an orange solid (14.91 g, 84.2%). 1H NMR δ (400 MHz, CDCl3) 8.17 (d, J=9.3 Hz, 1H), 7.97 (d, J=2.9 Hz, 1H), 7.01 (dd, J=2.9, 9.0 Hz, 1H), 3.91 (m, 2H), 3.54 (m, 4H), 1.48 (s, 9H), 1.43 (s, 6H).

reactant | 5-Bromo-2-nitropyridine | 52.6 mmol, 10.67 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 2,2-dimethyl-piperazine | 57.8 mmol, 6.60 g | CC1(NCCNC1)C | C6H14N2
reactant | potassium carbonate | 57.8 mmol, 8.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 105 mmol, 14.7 mL, 10.65 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 63.12 mmol, 13.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 17.41 mmol, 3.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | tetra-n-butyl ammonium iodide | 0.97 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMSO | CS(=O)C | C2H6OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-4-(6-nitro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 14.91 g, 84.2% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)[N+](=O)[O-])(C)C | C16H24N4O4
